US05602101
B. EtNHCO-D-Phe-Pro-Arg-H.HCl
By methods substantially equivalent to those described in Example 1-D, 1-H and 1-I, 1.2 g of EtNHCO-D-Phe-Pro-Arg-H.HCl hydrate was prepared from EtNHCO-D-Phe-Pro-OBzl.

reactant | EtNHCO-D-Phe-Pro-Arg-H.HCl hydrate | 1.2 g | C(C)NC(=O)N[C@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N)=N)C=O)CCC1.Cl.O
reactant | EtNHCO-D-Phe-Pro-OBzl | C(C)NC(=O)N[C@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1 | C24H29N3O4
product | EtNHCO-D-Phe-Pro-Arg-H.HCl | C(C)NC(=O)N[C@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N)=N)C=O)CCC1.Cl | InChI=1S/C23H35N7O4.ClH/c1-2-26-23(34)29-18(14-16-8-4-3-5-9-16)21(33)30-13-7-11-19(30)20(32)28-17(15-31)10-6-12-27-22(24)25;/h3-5,8-9,15,17-19H,2,6-7,10-14H2,1H3,(H,28,32)(H4,24,25,27)(H2,26,29,34);1H/t17-,18+,19-;/m0./s1
